US06355832B1
a) Preparation of Dioctylphosphinic Acid (Sodium Salt)
A solution of 1.5 g (2 mol %) of 2,2′-azobis(2-methylbutyronitrile) in 50 g of acetic acid were added uniformly in the course of a period of 16 h at 95° C. with constant vigorous stirring to a mixture of 42.4 g (0.4 mol) of sodium hypophosphite monohydrate, 134.4 g (1.2 mol) of 1-octene and 1 kg of acetic acid in a 2 l three-neck flask fitted with stirrer, reflux condenser and metering apparatus. After a post-reaction time of 1 h and cooling to room temperature, the contents were analysed:

reactant | 2,2′-azobis(2-methylbutyronitrile) | 1.5 g | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
reactant | sodium hypophosphite monohydrate | 0.4 mol, 42.4 g | O.[PH2](=O)[O-].[Na+]
reactant | 1-octene | 1.2 mol, 134.4 g | C=CCCCCCC | C8H16
solvent | acetic acid | 50 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 kg | C(C)(=O)O | C2H4O2
product | Dioctylphosphinic Acid | C(CCCCCCC)P(O)(=O)CCCCCCCC | C16H35O2P
